US05102895
9.0 g of dihydroxyacetone dimer, 21.0 g of 3,4-dihydro-2H-pyran and a catalytic amount of p-toluenesulfonic acid were added to 70 ml of dichloromethane and stirred under ice-cooling for 3 hours. After the completion of the reaction, 150 ml of diethyl ether was added thereto. The mixture was then washed with a saturated aqueous solution of sodium hydrogencarbonate and dried over anhydrous magnesium sulfate. After distilling off the solvent, the oily residue thus obtained was subjected to chromatography wherein silica gel was employed as a carrier while hexane/ethyl acetate was employed as a mobile phase. Thus 16.5 g of 1,3-bis(2-tetrahydro-pyranyloxy)propan-2-one was obtained as a colorless viscous liquid.

reactant | dihydroxyacetone dimer | 9.0 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | 3,4-dihydro-2H-pyran | 21.0 g | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 1,3-bis(2-tetrahydro-pyranyloxy)propan-2-one | 16.5 g | O1C(CCCC1)OCC(COC1OCCCC1)=O | C13H22O5
